US07115589B2
N-t-butoxycarbonyl-3-hydroxytyramine
To a solution of 3-hydroxytyramine hydrochloride (5.0 g, 26.36 mmol) in dixane/water (50/30 mL) at 0_C was added sodium bicarbonate (6.64 g, 79.08 mmol) and stirred for 10 min. To this was added Boc anhydride (7.48 g, 34.275 mmol) and stirred at rt for 18 h. After removing dioxane in vacuo, the slurry was taken up in water (˜60 mL) and extracted in ethyl acetate (25 mL×3). The organics were washed with 1N HCl (10 mL×2) followed by brine (10 mL); dried (sodium sulfate) and concentrated which when cooled in the refregerator crystallized the next day (3.87 g, 57%). MS: 252 (M−H).

reactant | 3-hydroxytyramine hydrochloride | 26.36 mmol, 5.0 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | sodium bicarbonate | 79.08 mmol, 6.64 g | C([O-])(O)=O.[Na+]
reactant | Boc anhydride | 34.275 mmol, 7.48 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 30 mL | O | H2O
product | N-t-butoxycarbonyl-3-hydroxytyramine | C(C)(C)(C)OC(=O)NCCC1=CC(=C(C=C1)O)O | C13H19NO4
